US05457201
6-Chloro-4-cyclopropyl-1-(p-methoxybenzyl)quinazolin-2(1H)-one
To a 0° C. solution of 9.0 g (0.04 1 mol) of 6-chloro-4-cyclopropylquinazolin-2(1H)-one in 150 mL of dry DMF (Aldrich Sure-Seal) under Ar was added 42.5 mL of a 1.0M solution of lithium bis(trimethylsilyl)amide in hexane dropwise. After the addition, 8.14 mL (0.06 mol) of p-methoxybenzyl chloride (Aldrich) was added in one portion, and the flask immersed in an oil bath maintained at 55°-60° C. The reaction was heated for 12.5 h, then allowed to stand at room temperature overnight. The solvents were removed by rotovap at reduced pressure and the residue partitioned between CHCl3 and cold 1M citric acid. The aqueous layer was extracted with CHCl3 and the combined organic layers washed with 10% Na2CO3, dried over MgSO4. After removal of the solvents by rotovap at reduced pressure, the residue was triturated with ether to give 10.5 g (75%) of the title compound as a light yellow solid.

reactant | 6-chloro-4-cyclopropylquinazolin-2(1H)-one | 1 mol, 9.0 g | ClC=1C=C2C(=NC(NC2=CC1)=O)C1CC1 | C11H9ClN2O
reactant | lithium bis(trimethylsilyl)amide | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | p-methoxybenzyl chloride | 0.06 mol, 8.14 mL | COC1=CC=C(CCl)C=C1 | C8H9ClO
solvent | DMF | 150 mL | CN(C)C=O | C3H7NO
solvent | hexane | CCCCCC | C6H14
product | 6-Chloro-4-cyclopropyl-1-(p-methoxybenzyl)quinazolin-2(1H)-one | 10.5 g, 75% | ClC=1C=C2C(=NC(N(C2=CC1)CC1=CC=C(C=C1)OC)=O)C1CC1 | C19H17ClN2O2
